US06492416B1
To a stirred solution of 2,2-dimethyl-5-{4-(methylthio)phenyl}-3(2H)-furanone (45 mg) in 20 ml carbon tetrachloride, were added acetic acid (0.5 ml) and bromine (0.1 ml). The reaction solution was stirred at room temperature for one hour. Then the reaction was quenched by adding 20 ml of saturated aqueous sodium thiosulfate solution to the reaction solution. After removing the carbon tetrachloride in vacuo, the resulting aqueous layer was extracted with dichloromethane (50 ml×3) and the organic layer was then washed with water (50 ml×1). The organic layer was concentrated in vacuo and the resulting residue was chromatographed (hexane/ethylacetate=2:1) to yield 69 mg of 4-bromo-2,2-dimethyl-5-{4-(methylthio)phenyl}-3(2H)-furanone as a solid. NMR: δ1.52 (s, 6H), 2.55 (s, 3H), 7.33 (d, J=9.3 Hz, 2H), 8.15 (d, J=9.0 Hz, 2H); IR (cm−1): 1704, 1594, 1574, 1486, 1348, 1184, 1069.

reactant | 2,2-dimethyl-5-{4-(methylthio)phenyl}-3(2H)-furanone | 45 mg | CC1(OC(=CC1=O)C1=CC=C(C=C1)SC)C | C13H14O2S
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
reactant | bromine | 0.1 ml | BrBr | Br2
solvent | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-bromo-2,2-dimethyl-5-{4-(methylthio)phenyl}-3(2H)-furanone | 69 mg | BrC=1C(C(OC1C1=CC=C(C=C1)SC)(C)C)=O | C13H13BrO2S
